US05773433
A mixture of 1-(2-propenyl)piperazine (6.6 g) and ethyl 2-propenoate (11.3 ml) in ethanol (100 ml) was stirred and refluxed for 1 hour 30 minutes. The solvent was evaporated, yielding 9.6 g (80%) of ethyl 4-(2-propenyl)- 1-piperazine-propanoate (interm. 1).

reactant | 1-(2-propenyl)piperazine | 6.6 g | C(C=C)N1CCNCC1 | C7H14N2
reactant | ethyl 2-propenoate | 11.3 ml | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4-(2-propenyl)- 1-piperazine-propanoate | 9.6 g, 80% | C(C=C)N1CCN(CC1)CCC(=O)OCC | C12H22N2O2
